US04789750
A flame-dried 100 mL, three-necked flask with magnetic stirring bar was charged under argon with 2.0 g (10.2 mmol) of (2R,3E,6R)-6,10-dimethyl-3,9-undecadien-2-ol [(2R,6R)/(2S,6R)=90:10 by GC diastereomer analysis of butyrate derivative]. Then, after cooling in an ice-bath, 1.5 g (1.4 mL, 15 mmol) of acetic anhydride, 1.58 g (1.6 mL, 20 mmol) of dry pyridine and 12.3 mg (0.1 mmol) of 4-N,N-dimethylaminopyridine were added, and the reaction was stirred for 75 minutes at ambient temperature. Work-up as described in Example 9 followed by Kugelrohr distillation at ca. 110°/0.25 mm afforded 2.35 g (99%) of (2R,3E,6R)-6,10-dimethyl-3,9-undecadien-2-ol acetate as colorless liquid; GC purity 90%; [α]D25 =+47.17° (5.3% in CHCl3).

reactant | (2R,3E,6R)-6,10-dimethyl-3,9-undecadien-2-ol | 10.2 mmol, 2.0 g | C[C@@H](C/C=C/[C@@H](C)O)CCC=C(C)C | C13H24O
reactant | butyrate | C(CCC)(=O)[O-]
reactant | acetic anhydride | 15 mmol, 1.4 mL, 1.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 20 mmol, 1.6 mL, 1.58 g | N1=CC=CC=C1 | C5H5N
product | (2R,3E,6R)-6,10-dimethyl-3,9-undecadien-2-ol acetate | 2.35 g, 99% | C(C)(=O)O[C@H](C)\C=C\C[C@@H](CCC=C(C)C)C | C15H26O2
